US06008230
A mixture of 8-amino-3-bromoquinoline (200 mg) and sodium thiomethoxide (109 mg) in N,N-dimethylformamide (2 ml) was stirred at ambient temperature for 2 days. After diluted with ethyl acetate, the resulting mixture was washed with water and brine, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was purified by chromatography on silica gel (n-hexane-ethyl acetate) to give 8-amino-3-methylthioquinoline (113 mg) as an oil.

reactant | 8-amino-3-bromoquinoline | 200 mg | NC=1C=CC=C2C=C(C=NC12)Br | C9H7BrN2
reactant | sodium thiomethoxide | 109 mg | C[S-].[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-amino-3-methylthioquinoline | 113 mg | NC=1C=CC=C2C=C(C=NC12)SC | C10H10N2S
